US05843940
2-(4--Hydroxyphenyl)-3-[3-[2-(1-piperidinyl)ethoxy]phenyl]-6-hydroxybenzo[b]thiophene hydrochloride
2-(4-Methoxyphenyl)-3-[3-[2-(1-piperidinyl)ethoxy]phenyl]-6-methoxybenzo[b]thiophene hydrochloride, 2 g (4 mmol) was dissolved in 125 mL of CH2 Cl2 and cooled to 0+ C. 1.0 mL (10 mmol) of BBr3 was added and the reaction mixture was stirred at 0° C. for 3 hours under a nitrogen atmosphere. The reaction was quenched by pouring into a mixture of 125 mL of aqueous NaHCO3, 25 mL of isopropanol, and 250 mL of CHCl3. The organic layer was separated and washed twice with brine, dried with Na2SO4, and evaporated to dryness. The resulting solid was re-dissolved in 150 mL of EtOAc and dry HCl gas was bubbled through. The solvents were removed by evaporation. This yielded 850 mg of the title compound as a white powder.

reactant | 2-(4-Methoxyphenyl)-3-[3-[2-(1-piperidinyl)ethoxy]phenyl]-6-methoxybenzo[b]thiophene hydrochloride | Cl.COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)OCCN2CCCCC2
reactant | BBr3 | 10 mmol, 1.0 mL | B(Br)(Br)Br | BBr3
solvent | Cl2 | ClCl | Cl2
product | 2-(4--Hydroxyphenyl)-3-[3-[2-(1-piperidinyl)ethoxy]phenyl]-6-hydroxybenzo[b]thiophene hydrochloride | Cl.OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C2=CC(=CC=C2)OCCN2CCCCC2 | InChI=1S/C27H27NO3S.ClH/c29-21-9-7-19(8-10-21)27-26(24-12-11-22(30)18-25(24)32-27)20-5-4-6-23(17-20)31-16-15-28-13-2-1-3-14-28;/h4-12,17-18,29-30H,1-3,13-16H2;1H
